### PR TITLE
[Merged by Bors] - feat(RingTheory): going-down for integrally closed domains

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/IntegralClosure/Algebra/Ideal.lean [hunk 1]
```diff
@@ -0,0 +1,98 @@
...
+
+/-!
+
+# Integrality over ideals
+
+## Main results
+- `Polynomial.exists_monic_aeval_eq_zero_forall_mem_of_mem_map`:
+  If `S` is an integral `R`-algebra, and `I` is an ideal of `R`,
+  then any `x ∈ IS` is integral over `I`, i.e. it is a root
+  of some monic polynomial in `R[X]` whose non-leading coefficients are in `I`.
```
Comment (jcommelin) [inline Mathlib/RingTheory/IntegralClosure/Algebra/Ideal.lean:18]: Is this a predicate that we should abstract into a stand-alone definition? I've never seen this terminology before, but is it common in the literature?

File: Mathlib/RingTheory/IntegralClosure/Algebra/Ideal.lean [hunk 2]
```diff
@@ -0,0 +1,98 @@
...
+    rw [coeff_mul]
+    refine sum_mem fun ⟨j₁, j₂⟩ hj ↦ ?_
+    obtain rfl : j₁ + j₂ = i := by simpa using hj
+    exact pow_add I j₁ j₂ ▸ Ideal.mul_mem_mul (hx _) (hy _)
+
+attribute [local instance] Polynomial.algebra in
+lemma exists_monic_aeval_eq_zero_forall_mem_pow_of_isIntegral
+    {I : Ideal R} {x : S}
+    (hx : IsIntegral (Algebra.adjoin R { C r * X | r ∈ I }) (C x * X)) :
+    ∃ p : R[X], p.Monic ∧ aeval x p = 0 ∧ ∀ i, p.coeff i ∈ I ^ (p.natDegree - i) := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/IntegralClosure/Algebra/Ideal.lean:51]: This seems to be a stronger condition on the coefficients then the one mentioned above.

File: Mathlib/RingTheory/IntegralClosure/Algebra/Ideal.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/IntegralClosure/Algebra/Ideal.lean:18]: It is defined in [stacks#00H2](https://stacks.math.columbia.edu/tag/00H2), but is never referenced elsewhere except for the very last lemma 00H5: `exists_monic_aeval_eq_zero_forall_mem_of_mem_map`.

Do you think we need/want API on this? Or just a named predicate is enough?

Comment (jcommelin) [reply Mathlib/RingTheory/IntegralClosure/Algebra/Ideal.lean:18]: Ok, maybe not yet. But let's include the stacks pointer, and maybe put developing this API as a possible future todo?

Comment (erdOne) [reply Mathlib/RingTheory/IntegralClosure/Algebra/Ideal.lean:18]: I added a comment that (hopefully) resolves both of these.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
